US04031131
To a 300 ml, 3-necked flask equipped with a stirrer, gas bubbling tube, condenser, thermometer and drying tube is charged anhydrous methanol (100 ml) and 3-(2-chloro-4-trifluoromethylphenoxy)benzoic acid (12 g., 0.038 mole). Anhydrous hydrogen chloride gas is bubbled into the reaction mixture until the reaction temperature (exotherm) rises to 50° C. The reaction mixture is then maintained at 50° C. with external heating for 4 hours, then cooled, the solvent removed in vacuo and the residue dissolved in CCl4 (200 ml) and triturated with water (50 ml). The decanted and dried (anh. MgSO4) CCl4 layer is reduced in vacuo to give 12.2 g. of methyl 3-(2-chloro-4-trifluoromethylphenoxy)benzoate (98% yield).

reactant | 3-(2-chloro-4-trifluoromethylphenoxy)benzoic acid | 0.038 mole, 12 g | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)C(F)(F)F | C14H8ClF3O3
reactant | methanol | 100 ml | CO | CH4O
product | methyl 3-(2-chloro-4-trifluoromethylphenoxy)benzoate | 98% yield | ClC1=C(OC=2C=C(C(=O)OC)C=CC2)C=CC(=C1)C(F)(F)F | C15H10ClF3O3
